US04906621
A mixture of 13.9 g of ethyl 4-(hydroxymethyl)-pyridine-2-carboxylate, 5 g platinum oxide in 250 ml acetic acid is hydrogenated at 50 lbs/in2. Filtration, concentration in vacuo, and neutralization with potassium carbonate in methylene chloride yields an oil that is purified by flash chromatography using methylene chloride/methanol saturated with ammonia (20:1) to yield ethyl 4-(hydroxymethyl)-piperidine-2-carboxylate.

reactant | ethyl 4-(hydroxymethyl)-pyridine-2-carboxylate | 13.9 g | OCC1=CC(=NC=C1)C(=O)OCC | C9H11NO3
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 5 g | [Pt]=O
product | ethyl 4-(hydroxymethyl)-piperidine-2-carboxylate | OCC1CC(NCC1)C(=O)OCC | C9H17NO3
